2102-10-23 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint
   24 Hour Events:
   [**2102-10-22**]: D/C'd heparin gtt. Started heparin ppx. Added ranitidine.
   Increased fluconazole to 200mg po qd. BNP [**Numeric Identifier 9895**]. IV boluses got 2.25L.
   BP continued to be 80s-90s/50s. O2 sats stable 92-95% on 3LNC. Noted to
   be somewhat confused at night after moving rooms. BP increased to
   100s-120s systolic early in the AM before dialysis, Pt w/out complaints
   this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2102-10-22**] 09:20 AM
   Heparin Sodium (Prophylaxis) - [**2102-10-22**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-23**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 72 (67 - 89) bpm
   BP: 82/67(71) {77/34(44) - 128/86(96)} mmHg
   RR: 22 (12 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.3 kg (admission): 63 kg
   Height: 68 Inch
                  Total In:
                                                                  2,243 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
                                                                  1,943 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,243 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   HEENT: PEERLA, EOMI
   Resp: Apical wheezing, decreased breath sounds b/l at the bases
   Cards: rrr no m/r/g
   Abd: soft, non-distended, slight mid-epigastric TTP,
   Labs / Radiology
   269 K/uL
   12.5 g/dL
   85 mg/dL
   8.4 mg/dL
   25 mEq/L
   5.3 mEq/L
   49 mg/dL
   93 mEq/L
   136 mEq/L
   44.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2102-10-22**]  05:23 AM
                             [**2102-10-23**]  05:18 AM
   WBC
   8.5
   11.4
   Hct
   44.1
   44.6
   Plt
   242
   269
   Cr
   6.9
   8.4
   TropT
   1.09
   Glucose
   111
   85
   Other labs: PT / PTT / INR:14.7/54.3/1.3, CK / CKMB /
   Troponin-T:141/17/1.09, Differential-Neuts:84.5 %, Lymph:6.8 %,
   Mono:7.5 %, Eos:1.0 %, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   65M PMH CAD with CABG [**2079**], s/p STEMI c/b VF arrest in [**5-25**],
   diastolic dysfunction with recurrent pulmonary effusions, s/p
   bilateral pleurex catheter placement, ESRD on HD, presents with
   hypotension after dialysis in the setting of troponin elevation
   and ECG with slightly increased ST depressions.
   .
   # HYPOTENSION: Likely multifactorial in the setting of fluid removal at
   dialysis, possible cardiac event, administration of analgesic meds
   (received percocets yesterday). Also possibly cardiogenic shock.
   Patient appears to have new RV failure, although unclear whether from
   recent MI and LV systolic failure.  He has known chronic diastolic
   failure.  Unlikely to be septic shock, although ?hx of temp to 100.4 on
   [**2102-10-20**], no other evidence of infection.
   -Hold blood pressure meds (beta blocker, imdur) will give fluid boluses
   to keep SBP above 90 mmHg
   - BP now returning to baseline this AM
   - Will continue to monitor after dialysis. If Pt hemodynamically stable
   and asymptomatic Pt can be transferred to floor after dialysis
   .
   # CORONARIES: ECG with mildly increased ST depressions, slightly
   elevated cardiac enzymes, with no CP or evidence of anginal
   equivalent.  It is possible that he has had an MI within the past few
   weeks.
   -Trend troponin, CK and CK/MB Q6H x 2
   -continue telemetry
   -heparin ggt
   -ASA 325
   -Plavix 75, will switch omeprazole to zantac
   -Pravastatin 80
   .
   # PUMP:  Previously normal EF, but could be decreased now in the
   setting of recent MI.  Also new RV failure of unclear etiology.
   -gentle fluid resuscitation with small boluses
   -heparin ggt also for hypokinesis
   .
   # RHYTHM:  Atrial fibrillation, with coumadin recently stopped after pt
   found to have oozing AVM on colonoscopy
   -heparin ggt
   -will hold off on nodal agents given continued hypotension.
   .
   # Pleural effusions: Per IP, plan pleurex drainage PRN if Pt w/
   increasing dyspnea or 02 requirements.  L pleurex drained 250 cc 9/5.
   .
   # ESRD on HD: Renal following, plan to continue HD on regular schedule
   of M/W/F.  Last HD [**10-20**].
   -monitor lytes
   -continue sevelamer
   -continue prednisone
   .
   # Hx esophagitis/ h/o UGIB: Omeprazole changed to Ranitidine.  Will
   order active T&S.
   # Gout: Continue home dose allopruinol.
   # Recurrent [**Female First Name (un) **] esophagitis: Continue home dose fluconazole.
   .
   # Depression: Continued home dose citalopram.
   FEN: Renal diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin ggt
   -Pain management with
   -Bowel regimen with colace, senna, bisacodyl, miralax
   .
   CODE: full code - confirmed with patient
   .
   COMM: [**Name (NI) **]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-10-21**] 10:49 PM
   22 Gauge - [**2102-10-21**] 10:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   complaining of chest pain
   ecg changes
   will plan on cath today
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**]
   on:[**2102-10-23**] 11:55 ------

2102-10-24 06:22:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
 CARDIAC CATH - At [**2102-10-23**] 12:00 PM
   to cardiac cath at ~ 12pm secondary to CP during dialysis w/ECG changes
 INVASIVE VENTILATION - START [**2102-10-23**] 03:00 PM
 MULTI LUMEN - START [**2102-10-23**] 10:00 PM
   [**2102-10-23**]: Episode of chest pain late morning during HD, relieved somewhat
   with nitro, ECG concerning for anterior ischemia.  Pt underwent
   emergent PCI, technically difficult.  Pt became extremely agitated in
   cath lab, required endotracheal intubation.  Attempted and failed to
   stent mid-PDA graft stenosis, graft now occluded distal to restenosis.
   Pt managed on vent overnight, ABGs show acute respiratory alkalosis,
   with high rate and high plateau pressures.  Right IJ central cath
   place.  Unable to place right radial line.  Hypotensive with SBP in
   70s-80s overnight, given one 500cc NS bolus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2102-10-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: unable to obtain [**3-20**] sedation
   Flowsheet Data as of  [**2102-10-24**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 75 (70 - 93) bpm
   BP: 79/57(60) {74/49(59) - 125/84(90)} mmHg
   RR: 26 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.3 kg (admission): 63 kg
   Height: 68 Inch
    CVP: 10 (6 - 13)mmHg
   Total In:
                                                                    392 mL
                                                                    588 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                     92 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    392 mL
                                                                    588 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 400) mL
   RR (Set): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   SpO2: 99%
   ABG: 7.50/29/155/24/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin, grimaces
   with movement/stimuli
   Eyes / Conjunctiva: PERRL, pupils constricted
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), no
   murmurs, rubs, gallops noted.  CVP has been [**11-29**] overnight
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : right base), otherwise coarse breath sounds
   from vent
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   184 K/uL
   10.3 g/dL
   77 mg/dL
   6.2 mg/dL
   24 mEq/L
   4.1 mEq/L
   36 mg/dL
   95 mEq/L
   137 mEq/L
   34.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2102-10-22**]  05:23 AM
                             [**2102-10-23**]  05:18 AM
                             [**2102-10-23**]  12:19 PM
                             [**2102-10-23**]  08:47 PM
                             [**2102-10-23**]  08:57 PM
                             [**2102-10-24**]  02:31 AM
                             [**2102-10-24**]  05:00 AM
   WBC
   8.5
   11.4
   10.3
   9.2
   8.5
   Hct
   44.1
   44.6
   38.6
   35.6
   34.4
   Plt
   [**Telephone/Fax (3) 9908**]98
   184
   Cr
   6.9
   8.4
   4.0
   5.8
   6.2
   TropT
   1.09
   1.53
   1.46
   1.61
   TCO2
   23
   23
   Glucose
   111
   85
   120
   88
   87
   77
   Other labs: PT / PTT / INR:14.6/30.7/1.3, CK / CKMB /
   Troponin-T:150/23/1.61, Differential-Neuts:84.5 %, Lymph:6.8 %,
   Mono:7.5 %, Eos:1.0 %, Lactic Acid:1.7 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   65M PMH CAD with CABG [**2079**], s/p STEMI c/b VF arrest in [**5-25**], diastolic
   dysfunction with recurrent pulmonary effusions, s/p
   bilateral pleurex catheter placement, ESRD on HD, presents with
   hypotension after dialysis in the setting of troponin elevation
   and ECG with slightly increased ST depressions.  Episode of chest pain
   during HD on [**2102-10-23**], now s/p failed PCI, intubated, with persistent
   hypotension.
   .
   # HYPOTENSION: Likely multifactorial in the setting of fluid removal at
   dialysis, possible cardiac event, administration of analgesic meds
   (received percocets yesterday).  Less likely cardiogenic shock.
   Patient appears to have new RV failure, although unclear whether from
   recent MI and LV systolic failure.  He has known chronic diastolic
   failure.  Unlikely to be septic shock, although ?hx of temp to 100.4 on
   [**2102-10-20**], no other evidence of infection.  Persistent hypotension
   following intubation likely exacerbated by sedation.  Deferred dopamine
   overnight
   -Hold blood pressure meds (beta blocker, imdur) will give fluid boluses
   to keep SBP above 80 mmHg
   -cannot monitor mental status in setting of sedation (no urine output
   since HD)
   -will start dopamine if patient becomes unresponsive to IVF
   -Send Blood Cx
   -Will not start antibiotics unless there is evidence of infection
   -pt would likely benefit from continuous a-line monitoring (ABGs, BP),
   difficult right radial placement, will likely need fem a-line
   -hypotension likely [**3-20**] RV failure (ishemia vs. left heart diastolic
   failure as etiology), less likely hypovolemic, septic, adrenal insuff,
   neurogenic, cardiogenic or tamponade physiology
   -will f/u results of TTE this morning
   .
   # CORONARIES: ECG will mildly increased ST depressions, slightly
   elevated cardiac enzymes, with no CP or evidence of anginal
   equivalent.  It is possible that he has had an MI within the past few
   weeks.   P/w chest pain yesterday morning, now s/p unsuccessful PCI
   -Trend troponin, CK and CK/MB Q6H x 2
   -continue telemetry
   -heparin ggt has been discontinued
   -ASA 325
   -Plavix 75, will switch omeprazole to zantac
   -Pravastatin 80
   .
   # PUMP:  Previously normal EF, but could be decreased now in the
   setting of recent MI.  Also new RV failure of unclear etiology.
   -gentle fluid resuscitation with small boluses
   -will consider restarting heparin ggt also for hypokinesis
   .
   # RHYTHM:  Atrial fibrillation, with coumadin recently stopped (reason
   no clear from patient/chart).
   -will consider restarting heparin ggt
   -will hold off on nodal agents given continued hypotension.
   .
   #Acute respiratory alkalosis
 improving, likely [**3-20**] anxiety.  Pt
   continues to have high plateau pressures, improving.  Rate and
   alkalosis also improving.  Less likely etiologies include PE and PNA.
   - Wean sedation today for extubation
   # Pleural effusions: Per IP, plan for daily pleurex drainage.  L
   pleurex drained 250 cc 9/5.
   .
   # ESRD on HD: Renal following, plan to continue HD on regular schedule
   of M/W/F.  Last HD [**10-20**].
   -monitor lytes
   -continue sevelamer
   -continue prednisone
   .
   # Hx esophagitis/ h/o UGIB: Omeprazole changed to Ranitidine.  Will
   order active T&S.
   .
   # Gout: Continue home dose allopruinol.
   # Recurrent [**Female First Name (un) **] esophagitis: Continue home dose fluconazole.
   # Depression: Continued home dose citalopram.
   .
   FEN: Renal diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin ggt
   -Pain management with
   -Bowel regimen with colace, senna, bisacodyl, miralax
   - Zantac [**Hospital1 7**]
   .
   CODE: full code - confirmed with patient
   .
   COMM: [**Name (NI) **]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-10-23**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   s/p complicated distal rca intervention
   intubated with plans to extubate this morning
   continue current medical therapy
   no heparin for now given concerns for bleeding
   rate controlled in af - ideally would anticoagulate but can't  with
   life threatening gi bleed in past
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**]
   on:[**2102-10-24**] 10:57 ------